US06875483B2
In 400 ml of water, 21.7 g of bromosalicylic acid, 13.41 g of phenyl borate and 15.28 g of potassium carbonate were dissolved. The solution was stirred at room temperature for 40 minutes. The completion of the reaction was confirmed by TLC, and the reaction solution was poured into a mixture of diluted hydrochloric acid and ethyl acetate. The organic phase was extracted, separated, and washed with a saturated aqueous sodium chloride solution. The organic phase was dried with magnesium sulfate, and concentrated. The concentrate was recrystallized with acetonitrile to obtain 5-phenylsalicyclic acid as colorless crystals. The amount was 18.58 g (yield: 87%). The molecular structure was confirmed with a mass spectrum. Synthesis of ethyl 5-phenylsalicylate

reactant | bromosalicylic acid | 21.7 g | BrOC=1C(C(=O)O)=CC=CC1 | C7H5BrO3
reactant | phenyl borate | 13.41 g | B(OC1=CC=CC=C1)([O-])[O-]
reactant | potassium carbonate | 15.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 400 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-phenylsalicyclic acid | yield: 87% | C1(=CC=CC=C1)C1=CC=C(C(C(=O)O)=C1)O | C13H10O3
